* The three regulators and the reference, for sequencing only.
*
* Behavioural, not vendor - see SOURCE.md, and read what they do **not**
* represent before believing anything downstream of them. None of these has a
* control loop. They are soft-start ramps with a turn-on condition and a
* current limit, which is enough to answer "what comes up when, and does
* anything get ahead of anything" and enough for nothing else.
*
* In particular: no ripple, no loop stability, no line or load transient, no
* inductor, no switching. A deck built on these says nothing about whether a
* converter is stable - `parts/TSOT23_6/TSOT23_6.md` records that the 3V3
* rail's decoupling is part of that loop whether it was chosen to be or not,
* and that question is untouched here.

* --- a switching converter that soft-starts ---------------------------------
*
* Off until its input passes `uvlo` and its enable passes `ven`, then its
* output ramps to `vout` over `tss` and holds. The ramp is monotonic, which is
* what both datasheets promise and is the only shape either states.
*
* `ilim` is the part's own current limit; without it the model would hold its
* setpoint into any load, and the rails it feeds are the whole point.
.subckt buck in en out params: vout=5 uvlo=4 ven=1.6 tss=3m ilim=1
+ uvlo_off=0 ven_off=0 eff=0.9

* Armed once, and it stays armed: a converter that has started does not
* un-start when its input dips below the threshold that let it start, which is
* what the hysteresis row in both datasheets is about. The capacitor is the
* memory and the diode is what stops it discharging.
Barm arm_raw 0 V = 10 * (0.5+0.5*tanh(20*(v(in)-uvlo))) * (0.5+0.5*tanh(20*(v(en)-ven)))
Darm arm_raw arm DARM
Carm arm 0 1n
Rarm arm 0 1e12

* **And a way back down, which the model did not have.** "Armed once and it
* stays armed" is right for the question these were built for - what comes up
* when - and wrong for the opposite one. A real converter has UVLO hysteresis
* and *does* shut off when its input falls far enough below the threshold
* that let it start, and on this board the level it shuts off at decides
* whether the PWM buffers lose their supply before the over-current
* comparators lose theirs.
*
* `uvlo_off` and `ven_off` default to zero, which puts the tanh hard against
* its rail for any real input and leaves the power-up decks exactly as they
* were. A deck that wants the falling direction states them.
Bdisarm arm 0 I = 1e-3 * v(arm) *
+ max(0.5+0.5*tanh(20*(uvlo_off - v(in))), 0.5+0.5*tanh(20*(ven_off - v(en))))
.model DARM D(IS=1e-14 N=1 RS=1)

* The ramp, started by that: a 1 nF capacitor fed a current that takes it from
* zero to one volt in exactly `tss`, and then stops. One volt of `ramp` is the
* setpoint, so the output ramps over the soft-start time the datasheet gives.
Cramp ramp 0 1n
Bslew 0 ramp I = (0.5+0.5*tanh(20*(v(arm)-5))) * 1n/tss
+                * (0.5+0.5*tanh(200*(1 - v(ramp))))
Rramp ramp 0 1e12

* And the output: the ramp times the setpoint, delivered through a source that
* cannot give more than the part can, and never more than its own input.
*
* **Gated on `arm`, which it was not.** Disarming only froze the ramp, so a
* converter whose input had gone away went on regulating its output for ever
* - which no deck noticed, because none of them had ever taken an input
* away. The first one that did found the 5 V rail sitting at 2.75 V a
* hundred milliseconds after the supply was disconnected.
Bout 0 sense I = (0.5+0.5*tanh(20*(v(arm)-5))) *
+ min(max(1e3*(min(v(ramp),1)*vout - v(out)), -ilim), ilim)
Vsense sense out 0
Rleak out 0 1e9

* **And what it takes from its own input to do that**, which the model did
* not draw at all. A converter that delivers power without consuming any is
* harmless on the way up - the input is a supply and the question is only
* what order things arrive in - and wrong the moment the input is a rail with
* a capacitor on it. On this board the 3V3 converter draws about 560 mA from
* the 5 V rail, nearly three times that rail's own declared budget, and a
* deck that leaves it out has the 5 V rail outliving its real self by a
* factor of four.
*
* Power in equals power out over the efficiency, clamped away from a divide
* by zero as the input collapses.
Bin in 0 I = abs(i(Vsense)) * v(out) / (eff * max(v(in), 0.5))

* And the ramp comes back down with it, so a converter that drops out and
* recovers soft-starts again rather than stepping straight to its setpoint.
* On the way up this does nothing: the ramp is at zero until the part arms.
Bramp_reset ramp 0 I = 1e-3 * v(ramp) * (0.5+0.5*tanh(20*(5 - v(arm))))

.ends buck

* --- a linear regulator that follows its input -------------------------------
*
* No soft start is declared for the TLV70233 and none is modelled: it holds
* its setpoint as soon as its input can support it, which on the way up means
* it tracks the input minus its dropout until the setpoint is reachable. That
* is the same shape as led12's `ldo_3v3.lib` and the same three figures.
.subckt ldo in out params: vout=3.3 rpass=1.25 ilim=0.3
Bpass in out I = min(min(1e4*max(0, vout - v(out)), max(0, (v(in)-v(out))/rpass)), ilim)
Rleak out 0 1e9
.ends ldo

* --- a series voltage reference ----------------------------------------------
*
* The REF3030, as its output with a first-order settling time in front of it.
* `tsettle` is the datasheet's turn-on figure, which is quoted with **no load
* capacitance** while this board hangs 2.2 uF on the node - so the model
* settles sooner than the part will and the deck is optimistic about how
* quickly VREF+ arrives. Which way that matters: VREF+ arriving *late* is the
* safe direction on this board, so an optimistic model is the conservative
* one for the question being asked.
*
* It cannot exceed its own input less the dropout, which is what makes it
* follow 3V3 up rather than appearing at 3.0 V the moment it has a supply.
.subckt vref in out params: vout=3.0 tsettle=120u headroom=0.05 ilim=25m
Btarget target 0 V = min(vout, max(0, v(in) - headroom))
Rset target settled {tsettle/1n/0.6931472}
Csettle settled 0 1n
Bout 0 out I = min(max(1e3*(v(settled) - v(out)), -ilim), ilim)
Rleak out 0 1e9
.ends vref
